US06204278B1
Iodotrimethylsilane (3.00 g, 15 mmols) was added to an acetonitrile solution (5 ml) of ethyl 5-chloro-2,2-dimethylpentanoate (963 mg, 5 mmols) at room temperature, and heated at 80° C. for 24 hours with stirring. The reaction mixture was poured into water with ice, and extracted with ether. The organic layer was washed with water, and dried with anhydrous magnesium sulfate, and the solvent was evaporated to obtain 0.9 g of 5-chloro-2,2-dimethylpentanoic acid as a brown oil.

reactant | Iodotrimethylsilane | 15 mmols, 3.00 g | I[Si](C)(C)C | C3H9ISi
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | ethyl 5-chloro-2,2-dimethylpentanoate | 5 mmols, 963 mg | ClCCCC(C(=O)OCC)(C)C | C9H17ClO2
solvent | water | O | H2O
product | 5-chloro-2,2-dimethylpentanoic acid | 0.9 g | ClCCCC(C(=O)O)(C)C | C7H13ClO2
